US07981903B2
To a solution of 5-(methyloxy)-6-nitro-2,3-dihydro-1H-indole (1.0 g, 5.15 mmol) and polymer-bound diisopropyl ethylamine (4.20 g, 15.46 mmol) in dichloromethane (200 mL) was added acryloyl chloride (0.51 g, 5.67 mmol) via a dropwise addition. After stirring overnight at rt, the solids were removed by vacuum filtration and washed with dichloromethane. The filtrate was concentrated under reduced pressure and maintained under vacuum for several hours. A portion of this crude mixture (0.52 g, 2.1 mmol) was redissolved in absolute ethanol (25 mL) and to this was added isopropylpiperazine (0.81 g, 6.29 mmol). After heating at 60° C. for 3 hrs, the reaction was concentrated under reduced pressure and solids were recrystallized from ethyl acetate/hexanes to provide 1-{3-[4-(1-methylethyl)-1-piperazinyl]propanoyl}-5-(methyloxy)-6-nitro-2,3-dihydro-1H-indole (0.62 g, 79%). ESIMS (M+H)+=377.

reactant | 5-(methyloxy)-6-nitro-2,3-dihydro-1H-indole | 5.15 mmol, 1.0 g | COC=1C=C2CCNC2=CC1[N+](=O)[O-] | C9H10N2O3
reactant | diisopropyl ethylamine | 15.46 mmol, 4.20 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | acryloyl chloride | 5.67 mmol, 0.51 g | C(C=C)(=O)Cl | C3H3ClO
reactant | isopropylpiperazine | 6.29 mmol, 0.81 g | C(C)(C)N1CCNCC1 | C7H16N2
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
solvent | ethanol | 25 mL | C(C)O | C2H6O
product | 1-{3-[4-(1-methylethyl)-1-piperazinyl]propanoyl}-5-(methyloxy)-6-nitro-2,3-dihydro-1H-indole | 0.62 g, 79% | CC(C)N1CCN(CC1)CCC(=O)N1CCC2=CC(=C(C=C12)[N+](=O)[O-])OC | C19H28N4O4
